US06211234B1
A solution of ethyl (RS)-4-[2-acetyl-5-(5-pyrimidinylmethoxy)phenoxy]-4-(2-methylphenyl)-butanoate (1.1 g) in dioxan (10 mL) and sodium hydroxide (5.3 mL; 1 M) is stirred at 25° C. for 45 minutes. The solution is evaporated, the residue is diluted with water, and brought to pH 6 by treatment with hydrochloric acid (2 M). The precipitate is extracted with ethyl acetate, washed with water, dried and evaporated. The residual oil is subjected to flash chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (95:5 v/v), followed by trituration with diethyl ether to give (RS)-4-(2-acetyl-5-(5-pyrimidinylmethoxy)-phenoxy]-4-(2-methylphenyl)butanoic acid (0.44 g) in the form of a colourless solid, m.p.142-144° C. [NMR(CDCl3):- 2.2-2.7(4H,m),2.45(3H,s), 2.7 (3H,s),4.9(2H,q),5.5(1H,q),6.2-7.8(7H),8.7(2H,s), 9.2(1H,s)].

reactant | ethyl (RS)-4-[2-acetyl-5-(5-pyrimidinylmethoxy)phenoxy]-4-(2-methylphenyl)-butanoate | 1.1 g | C(C)(=O)C1=C(OC(CCC(=O)OCC)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=NC1 | C26H28N2O5
solvent | dioxan | 10 mL | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1 M, 5.3 mL | [OH-].[Na+]
product | (RS)-4-(2-acetyl-5-(5-pyrimidinylmethoxy)-phenoxy]-4-(2-methylphenyl)butanoic acid | 0.44 g | C(C)(=O)C1=C(OC(CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=NC1 | C24H24N2O5
